US04049823
21.2 g. of 4-phenoxyacetophenone and 11.1 ml. of bromoacetic acid ethyl ester are dissolved in a mixture of 75 ml. of benzene and 75 ml. of toluene. 40 ml. of this solution are added to 7 g. of zinc powder (previously washed successively with 1% hydrochloric acid, water and acetone, and then dried) and the mixture is heated to 70° while stirring and passing in nitrogen. After the reaction has begun, the remainder of the solution is added dropwise, the mixture is boiled for one hour and cooled and 40 ml. of 20% sulfuric acid are added dropwise in order to decompose the resulting alcoholate of the formula C6H5O--p--C6H4 --C(CH3)--(OZnBr)--CH2 --COOC2H5. The organic phase is separated off and standard working up gives 3-p-phenoxyphenyl-3-hydroxy-butyric acid ethyl ester.

reactant | 4-phenoxyacetophenone | CC(=O)C1=CC=C(C=C1)OC2=CC=CC=C2 | C14H12O2
reactant | bromoacetic acid ethyl ester | C(C)OC(CBr)=O | C4H7BrO2
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-p-phenoxyphenyl-3-hydroxy-butyric acid ethyl ester | C(C)OC(CC(C)(O)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C18H20O4
